US07462728B2
N,N*-cyclohexyl-2,5-dimethyl-1,3-benzenedisulfonamide (3.21 g, 0.0075 mol) was dissolved in 2-propanol (100 ml). 50% Sodium hydroxide (1.20 g) and tetraethyl ammonium chloride (0.05 g) were added to the solution and the solution refluxed for 1 hr. Epichlorohydrin (5 g) was added and the solution refluxed for 12.5 hrs and cooled to room temperature. The solvent, 2-propanol was removed in vacuo and the residue dissolved in dichloromethane and washed (2×) with water, dried over anhydrous MgSO4 and evaporated in vacuo. The crude bischlorohydrin was diluted with dichloromethane (50 ml) and added to a 50% sodium hydroxide (2.5 g) and tetraethyl ammonium chloride (50 mg) and the reaction mixture stirred for 2 hrs at room temperature. The organic layer was washed with water (2×), dried over anhydrous potassium carbonate and evaporated to give N,N*bis(2,3-epoxypropyl)-N,N*-bis(cyclohexyl)-2,5-dimethyl-1,3-benzenedisulfonamide. Recrystallization from hexane-ethyl acetate gave product mp 110-115° C. MS m/z 540 (M+ calcd for C26H40N2O6S2=540). H NMR (300 MHz, CDCl3) d 1.05-1.91 (m, 20, CH3), 2.45 (s, 3, CH3 aromatic), 2.52 (m, 2, epoxypropyl CH2), 2.77 (s, 3, CH3 aromatic), 2.81 (m, 2, CH2 epoxypropyl), 3.08 (m, 2, CH cyclohexyl), 3.14 (m, 2, CH, epoxypropyl), 3.57 (m, 4, CH2 epoxypropyl), 8.08 (s, 2, aromatic).

reactant | cyclohexyl-2,5-dimethyl-1,3-benzenedisulfonamide | 0.0075 mol, 3.21 g | C1(CCCCC1)C1=C(C(=C(C=C1C)S(=O)(=O)N)C)S(=O)(=O)N | C14H22N2O4S2
reactant | Sodium hydroxide | 1.20 g | [OH-].[Na+]
reactant | Epichlorohydrin | 5 g | C(Cl)C1CO1 | C3H5ClO
reactant | 2-propanol | 100 ml | CC(C)O | C3H8O
catalyst | tetraethyl ammonium chloride | 0.05 g | [Cl-].C(C)[N+](CC)(CC)CC
product | bis(cyclohexyl)-2,5-dimethyl-1,3-benzenedisulfonamide | C1(CCCCC1)C1=C(C(=C(C(=C1S(=O)(=O)N)C)S(=O)(=O)N)C1CCCCC1)C | C20H32N2O4S2
